US04786648
A solution of 1-(4-pyridinyl)ethanone oxime, methiodide (48.36 g, 174 mmol) in 200 ml of 50% aqueous methanol was added to a cooled (-5° C.) slurry of sodium borohydride (12.86 g, 340 mmol) in 200 ml 50% aqueous methanol and the reaction mixture was stirred one hour. After some inorganic material was removed by filtration, the methanol was distilled off the filtrate in vacuo. The resulting solid was collected by filtration and dried to provide 1-(1,2,3,6-tetrahydro-1-methyl-4-pyridinyl)ethanone oxime (18 g), mp 166°-168° C.

reactant | 1-(4-pyridinyl)ethanone oxime | N1=CC=C(C=C1)C(C)=NO | C7H8N2O
reactant | sodium borohydride | 340 mmol, 12.86 g | [BH4-].[Na+]
reactant | methanol | 200 ml | CO | CH4O
reactant | methanol | 200 ml | CO | CH4O
product | 1-(1,2,3,6-tetrahydro-1-methyl-4-pyridinyl)ethanone oxime | 18 g | CN1CCC(=CC1)C(C)=NO | C8H14N2O
